US07560558B2
3-Hydroxy-2-methyl-quinoline (76 mg) was dissolved in chlorobenzene (7 ml) to prepare a solution. N-Bromosuccimide (180 mg) and 2,2′-azobisisobutyronitrile (23 mg) were added to the solution, and the mixture was stirred at 80° C. for one hr. Water was added to the reaction solution, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was then washed with water and was dried over anhydrous sodium sulfate. The solvent was removed by distillation under the reduced pressure, and the residue was purified by thin layer chromatography using acetone-chloroform to give 4-bromo-3-hydroxy-2-methyl-quinoline (35 mg, yield 31%).

reactant | 3-Hydroxy-2-methyl-quinoline | 76 mg | OC=1C(=NC2=CC=CC=C2C1)C | C10H9NO
reactant | N-Bromosuccimide | 180 mg | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | 2,2′-azobisisobutyronitrile | 23 mg | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
reactant | Water | O | H2O
solvent | chlorobenzene | 7 ml | ClC1=CC=CC=C1 | C6H5Cl
product | 4-bromo-3-hydroxy-2-methyl-quinoline | 35 mg, yield 31% | BrC1=C(C(=NC2=CC=CC=C12)C)O | C10H8BrNO
